US08791267B2
Synthesis of N-[4-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-carbonyl)-phenyl]-acetamide (I-19, R1═CH3, R2═Cl, Y═F, R3=4-acetylaminophenyl): To a stirred suspension of 4-acetylaminobenzoic acid (Aldrich, 1.32 g, 5.58 mmol) in anhydrous THF (20 mL) was added SOCl2 (1.19 g, 10.04 mmol) and DMF (4 drops). The reaction mixture was stirred at room temperature for 3 h, concentrated under vacuum to afford 4-acetylaminobenzoyl chloride (I-18, R3=4-acetylaminophenyl) as a light yellow solid.

reactant | N-[4-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-carbonyl)-phenyl]-acetamide | ClC=1C=C(C=CC1)C1=C(C(=CC=C1OC)C(=O)C1=CC=C(C=C1)NC(C)=O)F | C22H17ClFNO3
reactant | 4-acetylaminobenzoic acid | 5.58 mmol, 1.32 g | C(C)(=O)NC1=CC=C(C(=O)O)C=C1 | C9H9NO3
reactant | SOCl2 | 10.04 mmol, 1.19 g | O=S(Cl)Cl | Cl2OS
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | DMF | 4 drops | CN(C)C=O | C3H7NO
product | 4-acetylaminobenzoyl chloride | C(C)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C9H8ClNO2
